US05994391
Step 1. Preparation of 4-Fluoro-2-((4-methoxyphenyl)methyl)-phenol
To a stirred solution of 23.66 g of 95% sodium hydride (0.94 mol) in 600 mL of dry toluene was added 100.0 g of 4-fluorophenol (0.89 mol) at 0° C. The mixture was stirred at 90° C. for 1 hour until gas evolution stopped. The mixture was cooled down to room temperature and a solution of 139.71 g of 3-methoxybenzyl chloride (0.89 mol) in 400 mL of dry toluene was added. After refluxing for 24 hours, the mixture was cooled to room temperature and quenched with 500 mL of water. The organic layer was separated, dried over MgSO4, and concentrated under high vacuum. The remaining starting materials were removed by distillation. The crude dark red oil was filtered through a layer of 1 L of silica gel with neat hexane to yield 53.00 g (25.6%) of the product as a pink solid: 1H NMR (CDCl3) δ3.79 (s, 3H), 3.90 (s, 2H), 4.58 (s, 1H), 6.70-6.74 (m, 1H), 6.79-6.88 (m, 4H), 7.11-7.16 (m, 2H).

reactant | sodium hydride | 0.94 mol, 23.66 g | [H-].[Na+]
reactant | 4-fluorophenol | 0.89 mol, 100.0 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | 3-methoxybenzyl chloride | 0.89 mol, 139.71 g | COC=1C=C(CCl)C=CC1 | C8H9ClO
reactant | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
product | 4-Fluoro-2-((4-methoxyphenyl)methyl)-phenol | 53.00 g, 25.6% | FC1=CC(=C(C=C1)O)CC1=CC=C(C=C1)OC | C14H13FO2
